US04756739
4-(3-chloro-5-difluoromethoxy-2-pyridyloxy)-3,5-dichloroaniline
9.26 g (52 mmol) of 3,5-dichloro-4-hydroxyaniline, 10.1 g (50 mmol) of 2,3-dichloro-5-difluoromethoxypyridine and 10.4 g of anhydrous potassium carbonate were stirred for 15 hours at 105° C. under argon in 50 ml of anhydrous dimethyl sulfoxide. The dimethyl sulfoxide was then removed by distillation, and the residue was taken up in 100 ml of ether, washed twice with 30 ml of 5% strength potassium carbonate solution and with water until neutral and concentrated by evaporation.

reactant | 3,5-dichloro-4-hydroxyaniline | 52 mmol, 9.26 g | ClC=1C=C(N)C=C(C1O)Cl | C6H5Cl2NO
reactant | 2,3-dichloro-5-difluoromethoxypyridine | 50 mmol, 10.1 g | ClC1=NC=C(C=C1Cl)OC(F)F | C6H3Cl2F2NO
reactant | potassium carbonate | 10.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 4-(3-chloro-5-difluoromethoxy-2-pyridyloxy)-3,5-dichloroaniline | ClC=1C(=NC=C(C1)OC(F)F)OC1=C(C=C(N)C=C1Cl)Cl | C12H7Cl3F2N2O2
